US06316437B1
Step B: Preparation of (+/−)-1-amino-5-chloro-indane-1-carboxylic acid
A mixture of (+/−)-5′-chloro-spiro[imidazolidine-4,1′indan]-2,5-dione (473 mg, 2 mmol) in water (55 mL) containing barium hydroxide nonahydrate (3.06 gm, 10 mmol) was sealed in a screw-top vessel and heated at 120° C. for 22 hours. The reaction suspension was cooled, the vessel opened and the mixture diluted to ˜200 mL with water. This suspension was brought to boil and small pieces of solid carbon dioxide were added over a 1-2 hour period. The heat was removed and the suspension was filtered while still very warm. The aqueous filtrate was concentrated under vacuum and the residue redissolved in water (30 mL). A few drops of sulfuric acid were added and any suspended material removed by filtration before concentrating the aqueous solution to dryness. This residue was triturated with methanol and several crops of the crude title compound were obtained. This material was used as is.

reactant | (+/−)-5′-chloro-spiro[imidazolidine-4,1′indan]-2,5-dione | 2 mmol, 473 mg | ClC=1C=C2CCC3(C2=CC1)NC(NC3=O)=O | C11H9ClN2O2
reactant | barium hydroxide nonahydrate | 10 mmol, 3.06 gm | O.O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 55 mL | O | H2O
product | (+/−)-1-amino-5-chloro-indane-1-carboxylic acid | NC1(CCC2=CC(=CC=C12)Cl)C(=O)O | C10H10ClNO2
